US06288061B1
Ethyl 2-hydroxyimino-3-(4-ethoxyphenyl)-3-oxopropionate (84.5 g) and 4-nitrobenzylamine (87.1 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-ethoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate (28.1 g), melting point 214-217° C.

reactant | Ethyl 2-hydroxyimino-3-(4-ethoxyphenyl)-3-oxopropionate | 84.5 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)OCC | C13H15NO5
reactant | 4-nitrobenzylamine | 87.1 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 5-(4-ethoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate | 28.1 g | C(C)OC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C20H19N3O5
